US06300352B1
a) 5-Bromo-2-methylaniline
A slurry of 5-bromo-2-methylnitrobenzene (3.00 g), iron powder (3.11 g), and ammonium chloride (2.97 g), in 3:1 ethanol : water (50 ml) was heated at reflux temperature for 1 hour. The mixture was poured into 10% aqueous sodium hydroxide and filtered through Celite®. The filtrate was then extracted with ethyl acetate, the extracts washed with brine, dried over magnesium sulfate, filtered and evaporated to afford the subtitle compound as an oil (2.64 g).

reactant | 5-bromo-2-methylnitrobenzene | 3.00 g | BrC=1C=CC(=C(C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | ammonium chloride | 2.97 g | [Cl-].[NH4+]
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | iron | 3.11 g | [Fe] | Fe
solvent | water | 50 ml | O | H2O
product | 5-Bromo-2-methylaniline | 2.64 g | BrC=1C=CC(=C(N)C1)C | C7H8BrN
